US07910741B2
1-(2-chloropyrimidin-4-yl)azepane
To a solution of 2,4-dichloropyrimidine (25 g) in triethylamine (47 mL) and tetrahydrofuran (300 mL) was added azepane (17 g) at 0° C. After returning to room temperature, the solution was stirred for 1 hour. Water was added to thereto and the solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The obtained residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:5→1:2) to give the title compound (7.25 g) having the following physical data.

reactant | 2,4-dichloropyrimidine | 25 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | azepane | 17 g | N1CCCCCC1 | C6H13N
reactant | Water | O | H2O
solvent | triethylamine | 47 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1-(2-chloropyrimidin-4-yl)azepane | 7.25 g | ClC1=NC=CC(=N1)N1CCCCCC1 | C10H14ClN3
